US06653438B1
iii) 2,7-Dibromo-9-(2,5-dimethylphenyl)-9-[4-(3,7-dimethyloctyloxy)phenyl]-fluorene
52 g of 2,7-dibromo-9-(2,5-dimethylphenyl)-9-(4-hydroxyphenyl)fluorene were refluxed with 18 g of 3,7-dimethyloctyl chloride, 80 ml of ethanol, 7 g of KOH and 1 g of NaI for 5 days. According to TLC, the reaction was complete after this time. The solvent was stripped off, ethyl acetate was added, and the precipitate was filtered off with suction and rinsed a number of times with ethyl acetate. The organic phase was dried, and the solvent was stripped off.

reactant | 2,7-dibromo-9-(2,5-dimethylphenyl)-9-(4-hydroxyphenyl)fluorene | 52 g | BrC1=CC=2C(C3=CC(=CC=C3C2C=C1)Br)(C1=CC=C(C=C1)O)C1=C(C=CC(=C1)C)C | C27H20Br2O
reactant | 3,7-dimethyloctyl chloride | 18 g | CC(CCCl)CCCC(C)C | C10H21Cl
reactant | KOH | 7 g | [OH-].[K+]
reactant | NaI | 1 g | [Na+].[I-]
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | ethanol | 80 ml | C(C)O | C2H6O
product | 2,7-Dibromo-9-(2,5-dimethylphenyl)-9-[4-(3,7-dimethyloctyloxy)phenyl]-fluorene | BrC1=CC=2C(C3=CC(=CC=C3C2C=C1)Br)(C1=CC=C(C=C1)OCCC(CCCC(C)C)C)C1=C(C=CC(=C1)C)C | C37H40Br2O
